### PR TITLE
Fix map_mx_id and a few implicit arguments

### PR DESCRIPTION
**Pull request by CohenCyril**
##### Motivation for this change

Missing lemma from previous PR #568.
Part of #207

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- ~added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/algebra/matrix.v [hunk 1]
```diff
@@ -1067,7 +1067,13 @@ Lemma map_mx_id_in (R : Type) m n (M : 'M[R]_(m,n)) (f : R -> R) :
   (forall i j, f (M i j) = M i j) -> M ^ f = M.
 Proof. by rewrite -[RHS]map_mx_id -eq_in_map_mx. Qed.
 
+Lemma map_mx_eq_id (R : Type) m n (M : 'M[R]_(m,n)) (f : R -> R) :
```
Comment (thery) [inline mathcomp/algebra/matrix.v:1070]: In poly, this theorem is simply called `map_poly_id`.

Comment (CohenCyril) [reply mathcomp/algebra/matrix.v:1070]: `map_mx_id` is taken (see [above](https://github.com/math-comp/math-comp/blob/693a9fc82903f19770027d9b26f66de61377f221/mathcomp/algebra/matrix.v#L1051-L1052)), but maybe I could simply replace it, WDYT?

Comment (pi8027) [reply mathcomp/algebra/matrix.v:1070]: For me, it seems better to replace `map_mx_id`.

File: mathcomp/algebra/matrix.v [hunk 2]
```diff
@@ -1067,7 +1067,13 @@ Lemma map_mx_id_in (R : Type) m n (M : 'M[R]_(m,n)) (f : R -> R) :
...
+  f =1 id -> M ^ f = M.
+Proof. by move=> /eq_map_mx->; rewrite map_mx_id. Qed.
```
Comment (pi8027) [inline mathcomp/algebra/matrix.v:1072]:
```suggestion
Proof. by move/eq_map_mx->; rewrite map_mx_id. Qed.
```

File: mathcomp/algebra/matrix.v (hunk 1 above)
Comment (thery) [reply mathcomp/algebra/matrix.v:1070]: can we just remove `map_mx_id`? I think it is not much used and

```
Lemma map_mx_id (R : Type) m n (M : 'M[R]_(m,n)) : M ^ id = M.
Proof. by rewrite map_mx_eq_id . Qed.
```

Comment (CohenCyril) [reply mathcomp/algebra/matrix.v:1070]: I'd rather not remove `map_mx_id`, the specialization to `id` makes `rewrite map_mx_id` possible without pointing out which one is `id` (otherwise patterns might be needed).

**Review by pi8027 — COMMENTED** [review]
I think `eq_map_mx_id` might be a better name, but I'm not sure. Except that, it looks good to me.

**Comment by CohenCyril** [comment]
> I think `eq_map_mx_id` might be a better name, but I'm not sure. Except that, it looks good to me.

The `eq` in the name is not for the equality in the conclusion, but the equality in the hypothesis. In the same way one reads `map_mx_id` as "`map_mx` applied to `id` is equal to something", one should read `map_mx_eq_id` as "`map_mx` applied to something equal to `id`, is equal to something".

**Review by pi8027 — APPROVED** [review]

File: mathcomp/algebra/matrix.v (hunk 1 above)
Comment (thery) [reply mathcomp/algebra/matrix.v:1070]: Ok but then rename the theorem in `poly` to match the one in `matrix`

Comment (pi8027) [reply mathcomp/algebra/matrix.v:1070]: > Ok but then rename the theorem in `poly` to match the one in `matrix`

Make sense. @CohenCyril Please let me know whether you plan to do this in this PR or in another PR.

Comment (CohenCyril) [reply mathcomp/algebra/matrix.v:1070]: I am looking into it right now...

**Comment by CohenCyril** [comment]
Actually, after performing the change in `poly.v` I realized `map_poly_id` was never used, and I revised the uses of `map_mx_id` in my developments. And in fact, as I set the implicits `(map_mx_eq_id id)` does roughly the same job as `map_mx_id` and is used less often.
So ... I backtrack and I will come back with a new set of lemmas.

File: mathcomp/algebra/matrix.v [hunk 3]
```diff
@@ -1100,28 +1100,33 @@ End MapMatrix.
...
 
-Lemma map_mx_comp (R S T : Type) m n (M : 'M[R]_(m,n))
-      (f : R -> S) (g : S -> T) : M ^ (g \o f) = (M ^ f) ^ g.
-Proof. by apply/matrixP => i j; rewrite !mxE. Qed.
-
-Lemma eq_in_map_mx (R S : Type) m n (M : 'M[R]_(m,n)) (g f : R -> S) :
-  (forall i j, f (M i j) = g (M i j)) <-> M ^ f = M ^ g.
-Proof. by rewrite -matrixP; split => fg i j; have := fg i j; rewrite !mxE. Qed.
+Lemma eq_in_map_mx (g f : R -> S) (M : 'M_(m, n)) :
+  (forall i j, f (M i j) = g (M i j)) -> M ^ f = M ^ g.
```
Comment (pi8027) [inline mathcomp/algebra/matrix.v:1111]: This lemma was iff before this change. Is it really OK?

File: mathcomp/algebra/matrix.v [hunk 4]
```diff
@@ -1100,28 +1100,33 @@ End MapMatrix.
...
   (forall i j, f (M i j) = M i j) -> M ^ f = M.
-Proof. by rewrite -[RHS]map_mx_id -eq_in_map_mx. Qed.
+Proof. by move=> fM; apply/matrixP => i j; rewrite !mxE. Qed.
+
+Lemma map_mx_id (f : R -> R) : f =1 id -> forall M : 'M_(m, n), M ^ f = M.
+Proof. by move=> fid M; rewrite map_mx_id_in. Qed.
 
 End MultipleMapMatrix.
+Arguments eq_map_mx {R S m n} g [f].
+Arguments eq_in_map_mx {R S m n} g [f M].
```
Comment (pi8027) [inline mathcomp/algebra/matrix.v:1127]: The ordering of `f` and `g` is opposite and `g` is implicit in `eq_map_poly`. Shouldn't it be the same?

File: mathcomp/algebra/matrix.v (hunk 3 above)
Comment (CohenCyril) [reply mathcomp/algebra/matrix.v:1111]: The iff has no advantage over `matrixP` lemma itself. But as a forward only view, one can use the rewriting left to right with an explicit `g` to give the target function.

File: mathcomp/algebra/matrix.v (hunk 4 above)
Comment (CohenCyril) [reply mathcomp/algebra/matrix.v:1127]: It's a trade off, such lemma can be used in four different styles:
1. rewriting `eq_map_stuff` using an function equality as argument. (the most used for `eq_map_poly`)
2. rewriting `eq_map_stuff` using a function `g` as argument. (the least used, but still used)
3. `apply: eq_map_stuff` (the second most used, for `eq_map_poly`)
4. `move=> /eq_map_stuff` (the third most used, for `eq_map_poly`)

For the last two, the choice of implicit arguments has no impact whatsoever (except arguments of type `Type` must be either `nonPropType` or maximal implicit, which I made sure of for `eq_map_mx`).

Now, for 1. and 2., there is an impact, let's see it:
1. a. If one lets `f` and `g` implicit, then there is no `_` and one can write `rewrite (eq_map_stuff eq_f_g)` directly.
b. Otherwise, if `g` is explicit, then one needs to add one `_`, which can be bothering but will be nothing compared to what is coming in 2.
2. a. If one lets `f` and `g` implicit, then there is no `_` and one must write `rewrite (@eq_map_stuff _ ... _ g)`. In the case of `eq_map_poly` it's three of them, with `eq_map_mx` without swapping the arguments, it would be five (and with swapping, four). 
b. Otherwise, if `g` is explicit, one can just write `rewrite (eq_map_stuff g)`.

Hence my preference for option `b` for matrices. For polynomials, if I changed something, I suppose it would simply be reordering `g` and `f` so that one needs to put only two `_` to explicit `g`, which would slightly improve the current situation.

Comment (pi8027) [reply mathcomp/algebra/matrix.v:1127]: OK. I agree.

**Review by pi8027 — APPROVED** [review]
